US07067517B2
Methyl-phenyl-carbamic acid 4-(4-chlorobenzoyl)-phenyl ester
The title compound was prepared from 4-(4-chlorobenzoyl)-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was recrystallized (ethanol/water) (90%, white crystals). HPLC-MS m/z=366.1 (M+1), Rt: 5.19 min.

reactant | 4-(4-chlorobenzoyl)-phenol | ClC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H9ClO2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-(4-chlorobenzoyl)-phenyl ester | ClC1=CC=C(C(=O)C2=CC=C(C=C2)OC(N(C2=CC=CC=C2)C)=O)C=C1 | C21H16ClNO3
